US08871187B2
1 ml (11.4 mmol) of 1-bromo-2-butyne is added to a suspension of 1.4 g (34.2 mmol) of sodium hydride at 60% in 14 ml of dimethylformamide cooled beforehand to 0° C. After stirring for 1 h, 3 g (11.4 mmol) of tert-butyl 3-hydroxy-3-o-tolylazetidine-1-carboxylate in 20 ml of dimethylformamide are added dropwise and the reaction mixture is then stirred for 1 h 30. After hydrolysis with water and with a saturated aqueous solution of ammonium chloride, the reaction medium is extracted with a 1/1 heptane/ethyl acetate mixture. The organic phase is dried over sodium sulphate, filtered and concentrated. The residue obtained is purified by silica gel chromatography, elution being carried out with a 80/20 heptane/ethyl acetate mixture. 2.9 g of tert-butyl 3-but-2-ynyloxy-3-o-tolylazetidine-1-carboxylate are obtained in the form of a yellow oil with a yield of 81%.

reactant | 1-bromo-2-butyne | 11.4 mmol, 1 ml | BrCC#CC | C4H5Br
reactant | sodium hydride | 34.2 mmol, 1.4 g | [H-].[Na+]
reactant | tert-butyl 3-hydroxy-3-o-tolylazetidine-1-carboxylate | 11.4 mmol, 3 g | OC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C15H21NO3
reactant | water | O | H2O
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | tert-butyl 3-but-2-ynyloxy-3-o-tolylazetidine-1-carboxylate | 2.9 g, yield of 81% | C(C#CC)OC1(CN(C1)C(=O)OC(C)(C)C)C1=C(C=CC=C1)C | C19H25NO3
